US08080568B1
Preparation of N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline (Example 37)
To a stirred solution of 4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazole-2-carbaldehyde (4.00 g, 13.14 mmol) in 1,2-dichloroethane (240 mL) were added 3-vinylaniline (2.36 g, 19.71 mmol) and AcOH (0.79 g, 13.14 mmol), and the mixture was heated at 80° C. for 2 h. The reaction mixture was cooled to 0° C. and, to it, was added NaBH(OAc)3 (5.56 g, 26.20 mmol). The mixture was stirred at 40° C. overnight, and then the pH of the reaction mixture was adjusted to 7-8 at 0° C. with 10% K2CO3 solution. The reaction mixture was extracted with 5% MeOH in CHCl3 (2×200 mL), and the organic phase was dried over anhydrous Na2SO4, filtered, and evaporated to dryness under reduced pressure. The residue was purified by MPLC on silica gel using a mixture of MeOH and CH2Cl2 (1:19 (v/v)) as eluent to give the titled compound (2.89 g, 63%) as a solid. 1H NMR (400 MHz, CDCl3) δ 10.59 (br s, 1H), 8.94 (s, 1H), 8.37 (s, 1H), 7.81 (d, 1H, J=9.2 Hz), 7.77 (d, 1H, J=9.2 Hz), 7.45 (t, 1H, J=7.8 Hz), 7.20 (br d, 1H, overlapped, J=7.6 Hz), 7.15 (t, 1H, overlapped, J=7.8 Hz), 7.00 (d, 1H, J=8.0 Hz), 6.86 (d, 1H, J=7.6 Hz), 6.75 (t, 1H, J=2.0 Hz), 6.63 (dd, 1H, overlapped, J=17.6, 10.8 Hz), 6.61 (dd, 1H, overlapped, J=8.0, 2.0 Hz), 5.69 (dd, 1H, J=17.6, 0.8 Hz), 5.21 (dd, 1H, J=10.8, 0.8 Hz), 4.55 (s, 2H), 4.39 (br s, 1H), 2.51 (s, 3H); MS (ESI) m/z 408.21 (MH+).

reactant | 4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazole-2-carbaldehyde | 13.14 mmol, 4.00 g | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)C=O | C16H12N6O
reactant | 3-vinylaniline | 19.71 mmol, 2.36 g | C(=C)C=1C=C(N)C=CC1 | C8H9N
reactant | AcOH | 13.14 mmol, 0.79 g | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 26.20 mmol, 5.56 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,2-dichloroethane | 240 mL | ClCCCl | C2H4Cl2
product | N-((4-([1,2,4]triazolo[1,5-a]pyridin-6-yl)-5-(6-methylpyridin-2-yl)-1H-imidazol-2-yl)methyl)-3-vinylaniline | 2.89 g, 63% | N=1C=NN2C1C=CC(=C2)C=2N=C(NC2C2=NC(=CC=C2)C)CNC2=CC(=CC=C2)C=C | C24H21N7
